US05386023
A mixture of 5'-O-phthalimidothymidine (8.54 g, 22 mmol), t-butyldiphenylsilylchloride (6.9 ml, 26.5 mmol), imidazole (3.9 g, 57.3 mmol) and dry DMF (130 ml) was stirred at room temperature for 16 h under argon. The reaction mixture was poured into ice-water (600 ml) and the solution was extracted with CH2Cl2 (2×400 ml). The organic layer was washed with water (2×250 ml) and dried (MgSO4). The CH2Cl2 layer was concentrated to furnish a gummy residue which on purification by silica gel chromatography (eluted with EtOAc:Hexanes; 1:1, v/v) furnished 12.65 g (92%) of 3'-O-(t-butyldiphenylsilyl)-5'-O-phthalimidothymidine as crystalline material (mp 172°-173.5° C.). 1H NMR (DMSO-d6) δ 11.31 (s, 1, NH), 7.83 (m, 4, ArH), 7.59 (m, 4, TBDPhH), 7.51 (s, 1, C6H), 7.37-7.45 (m, 6, TBDPhH), 6.30 (dd, 1, H1', J1', 2' =8.8 Hz, J1',2" =5.6 Hz), 4.55 (m, 1, H4'), 4.15 (m, 1, H3'), 3.94-4.04 (m, 2, H5',5"), 2.06-2.13 (m, 2, H2',2"), 1.97 (s, 3, CH3), 1.03 (s, 9, C(CH3)3).

reactant | 5'-O-phthalimidothymidine | 22 mmol, 8.54 g | C1(C=2C(C(N1OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O)=O)=CC=CC2)=O | C18H17N3O7
reactant | t-butyldiphenylsilylchloride | 26.5 mmol, 6.9 ml | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 57.3 mmol, 3.9 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 130 ml | CN(C)C=O | C3H7NO
product | 3'-O-(t-butyldiphenylsilyl)-5'-O-phthalimidothymidine | 12.65 g, 92% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CON1C(C=2C(C1=O)=CC=CC2)=O)N2C(=O)NC(=O)C(C)=C2 | C34H35N3O7Si
